US05589489
3-[1-Methyl-1-(3,4-dichlorophenyl)-3-(4-acetamido-4-phenylpiperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-Methyl-3-(3,4-dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (isomer A descriibed below) (0.35 g) was coupled to 4-acetamido-4-phenylpiperidine (0.25 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.354 g); mp 195°-225° C.; MS: m/z=564(M+1); NMR(CDCl3): 1.0 (s,3), 1.91 (s,1), 2.50 (s,3), 2.98 (m,4), 3.37 (m,2), 7.22-7.72 (m,10), 7.79 (s,1), 8.13 (s,1). Analysis for C32H35Cl2N3O2.1.0 HCl.2.0 H2O: Calculated: C, 60.33; H, 6.33, N, 6.59; Found: C, 60.09; H, 5.97; N, 6.28.

reactant | 3-Methyl-3-(3,4-dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | CC(CC=O)(C1N(C(C2=CC=CC=C12)=O)C)C1=CC(=C(C=C1)Cl)Cl | C19H17Cl2NO2
reactant | 4-acetamido-4-phenylpiperidine | 0.25 g | C(C)(=O)NC1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
product | 3-[1-Methyl-1-(3,4-dichlorophenyl)-3-(4-acetamido-4-phenylpiperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.354 g | Cl.CC(CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O)(C1=CC(=C(C=C1)Cl)Cl)C1N(C(C2=CC=CC=C12)=O)C | InChI=1S/C32H35Cl2N3O2.ClH/c1-22(38)35-32(23-9-5-4-6-10-23)16-19-37(20-17-32)18-15-31(2,24-13-14-27(33)28(34)21-24)29-25-11-7-8-12-26(25)30(39)36(29)3;/h4-14,21,29H,15-20H2,1-3H3,(H,35,38);1H
